US05482692
An iron containing ZSM-5 catalyst was prepared by the following method: about 10 g of the same HZSM-5 as that of Example 1 was heated in a stream of dry air to 375° C. for 4 hours and then was cooled to room temperature. A solution of 0.1667 g of ferrocene (dicyclopentadienyliron) in 30 g dry toluene was then added to the dried zeolite and the slurry was mixed at room temperature overnight. Excess toluene was allowed to evaporate at room temperature to give a toluene/ferrocene wetted zeolite. The recovered solid was then calcined in a stream of dry air at about 538° C. for about 6 hours to produce the desired iron containing catalyst, Catalyst B. The iron loading of this catalyst is about 0.45 wt. %.

reactant | iron | [Fe] | Fe
reactant | ferrocene | 0.1667 g | [CH-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2]
solvent | toluene | 30 g | C1(=CC=CC=C1)C | C7H8
product | toluene ferrocene | C1(=CC=CC=C1)C.[CH-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2] | InChI=1S/C7H8.2C5H5.Fe/c1-7-5-3-2-4-6-7;2*1-2-4-5-3-1;/h2-6H,1H3;2*1-5H;/q;2*-1;+2
